US05665271
Preparation of trans-4-(4-(3,5-difluoro-4-difluoromethoxyphenyl)butyl)-1-propyl-1-silacyclohexane
50 ml (0.13 mols) of a THF solution of 2.5M of propylmagnesium bromide was dropped in a mixed solution of 36.9 g (0.1 mol) of 1-chloro-4-(4-(3,5-difluoro-4-difluoromethoxyphenyl)butyl)-1-silacyclohexane and 300 ml of THF. The resultant product was found to be a mixture of trans and cis isomers with respect to the silacyclohexane ring. The product was subjected to ordinary aftertreatments such as removal of solvent and salts, followed by isolation through chromatography to obtain 32.1 g (yield: 85%) of the intended trans isomer product.

reactant | propylmagnesium bromide | 2.5M | C(CC)[Mg]Br
reactant | 1-chloro-4-(4-(3,5-difluoro-4-difluoromethoxyphenyl)butyl)-1-silacyclohexane | 0.1 mol, 36.9 g | Cl[SiH]1CCC(CC1)CCCCC1=CC(=C(C(=C1)F)OC(F)F)F | C16H21ClF4OSi
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 0.13 mols, 50 ml | C1CCOC1 | C4H8O
product | trans-4-(4-(3,5-difluoro-4-difluoromethoxyphenyl)butyl)-1-propyl-1-silacyclohexane | yield: 85% | FC=1C=C(C=C(C1OC(F)F)F)CCCC[C@@H]1CC[Si@H](CC1)CCC | C19H28F4OSi
